US08405069B2
m. Diethyl 3-(9H-carbazol-9-yl)propylphosphonate
Triethylphosphite (13.4 mL, 80.1 mmol) was added via syringe to 9-(3-bromopropyl)-9H-carbazole (7.70 g, 26.7 mmol) in a 50 mL rbf. The reaction was heated and stirred under Argon at 130° C. for 18 hours. Excess triethylphosphite and side-products were removed under vacuum at ˜100° C. to yield a thick yellow oil (8.50 g, 92% yield). 1H NMR (400.14 MHz, CD2Cl2) δ 8.10 (dt, J=7.73, 2.00 Hz, 2H), 7.50-7.44 (m, 4H), 7.27-7.19, m, 2H), 4.43 (t, J=7.00 Hz, 2H), 4.10-3.95 (m, 4H), 2.23-2.09 (m, 2H), 1.74 (dt, J=18.41, 7.80 Hz, 2H), 1.26 (t, J=7.00 Hz, 6H). 13C{1H} NMR (100.62 MHz, CD2Cl2) δ 139.99 (2C), 125.36 (2C), 122.42 (2C), 119.88 (2C), 118.56 (2C), 108.37 (2C), 61.18 (d, J=6.44 Hz), 42.52 (d, J=15.39 Hz), 22.59 (d, J=141.97 Hz), 21.75 (J=4.83 Hz), 15.91 (d, J=5.84 Hz). 31P{1H} NMR (161.97 MHz, CD2Cl2): δ 31.22. Analysis found (calculated) %: C, 65.67 (66.07); H, 7.01 (7.00); N, 4.05 (4.06). MS (EI, m/z): 290 ([M], 100%). Exact mass found (calculated for [M], m/z): 345.14264 (345.14938).

reactant | Triethylphosphite | 80.1 mmol, 13.4 mL | C(C)OP(OCC)OCC | C6H15O3P
reactant | 9-(3-bromopropyl)-9H-carbazole | 26.7 mmol, 7.70 g | BrCCCN1C2=CC=CC=C2C=2C=CC=CC12 | C15H14BrN
product | Diethyl 3-(9H-carbazol-9-yl)propylphosphonate | 8.50 g, 92% yield | C1=CC=CC=2C3=CC=CC=C3N(C12)CCCP(OCC)(OCC)=O | C19H24NO3P
